US07691850B2
b) (±)-(3S,4R)/(3R,4S)-4-cyano-1-(phenylmethyl)-3-pyrrolidinecarboxamide
Crude (3S,4R)-4-cyano-1-(phenylmethyl)-3-pyrrolidinecarboxylic acid (3.24 g) was dissolved in THF (50 mL). N-methyl morpholine (0.93 mL, 8.49 mmol) was added and the solution allowed to stir overnight. A bit of solid remains undissolved. The solution was cooled to −15 degrees C. in an ethylene glycol/dry ice bath. Isobutyl chloroformate (1.1 mL, 8.49 mL) was added and the reaction stirred at −15 degrees C. for 1 hour. Ammonia was then bubbled through the solution for 20 minutes. The solution was allowed to warm to ambient temperature and the solvent removed under reduced pressure. The crude material was chromatographed on silica gel to yield a solid (1.56 g, 88% over 2 steps). LCMS: m/z 230.4 (MH+).

reactant | (3S,4R)-4-cyano-1-(phenylmethyl)-3-pyrrolidinecarboxylic acid | 3.24 g | C(#N)[C@@H]1[C@@H](CN(C1)CC1=CC=CC=C1)C(=O)O | C13H14N2O2
reactant | N-methyl morpholine | 8.49 mmol, 0.93 mL | CN1CCOCC1 | C5H11NO
reactant | Isobutyl chloroformate | 1.1 mL | ClC(=O)OCC(C)C | C5H9ClO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (3R,4S)-4-cyano-1-(phenylmethyl)-3-pyrrolidinecarboxamide | C(#N)[C@H]1[C@H](CN(C1)CC1=CC=CC=C1)C(=O)N | C13H15N3O
